US05506232
The reported synthetic procedures use, as a key intermediate, 6,9-difluorobenzo[g]isoquinoline-5,10-dione. This compound is reacted with ethylene-diamine which produces the desired 6,9-bis[(2-aminoethyl)amino]benzo[g]isoquinoline-5,10-dione.

reactant | 6,9-difluorobenzo[g]isoquinoline-5,10-dione | FC1=CC=C(C2=C1C(C=1C=CN=CC1C2=O)=O)F | C13H5F2NO2
reactant | ethylene-diamine | C(CN)N | C2H8N2
product | 6,9-bis[(2-aminoethyl)amino]benzo[g]isoquinoline-5,10-dione | NCCNC1=CC=C(C2=C1C(C=1C=CN=CC1C2=O)=O)NCCN | C17H19N5O2
